US04206279
4-(4-vinylphenylamino)-2,5,6-trichloropyrimidine
To a solution of 21.8 g (0.1 moles) of 2,4,5,6-tetrachloropyrimidine in 150 ml of acetone being stirred at 0°-5° C. was added dropwise over a 1/2 hr. period a solution of 11.9 g (0.1 mole) of 4-vinylaniline and 12.9 g (0.1 mole) of N,N-di-iso-propylethylamine. After stirring for 2 hr. at room temperature, the product was isolated by pouring the reaction mixture into 1 of ice water. The solid was collected by filtration and dried in vacuo at room temperature to give 28 g. Recrystallization from a solution of 120 ml of benzene and 200 ml of ligroin gave 17.5 g (58%) (mp 112°-114°).

reactant | 2,4,5,6-tetrachloropyrimidine | 0.1 moles, 21.8 g | ClC1=NC(=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | 4-vinylaniline | 0.1 mole, 11.9 g | C(=C)C1=CC=C(N)C=C1 | C8H9N
reactant | N,N-di-iso-propylethylamine | 0.1 mole, 12.9 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-(4-vinylphenylamino)-2,5,6-trichloropyrimidine | C(=C)C1=CC=C(C=C1)NC1=NC(=NC(=C1Cl)Cl)Cl | C12H8Cl3N3
